US08957203B2
Preparation of 6-chloro-3,4-dihydro-2H-pyrano[3,2-c]isoquinoline
To a solution of triphenylphosphine (1.03 g, 3.94 mmol) and 1-chloro-3-(3-hydroxypropyl)isoquinolin-4-ol (520 mg, 2.18 mmol) in THF (2 mL) at 0° C. was added diisopropyl azodicarboxylate (0.85 mL, 4.38 mmol) dropwise. The resulting solution was stirred for 4 h at rt. After concentration of solvent, the residue was purified by silica gel chromatography eluting with 0%-20% ethyl acetate in hexane to give the desired product 6-chloro-3,4-dihydro-2H-pyrano[3,2-c]isoquinoline (350 mg, 73%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.27-8.20 (m, 1H), 8.13 (d, J=8.3 Hz, 1H), 7.73 (ddd, J=8.2, 6.8, 1.3 Hz, 1H), 7.67-7.60 (m, 1H), 4.45-4.31 (m, 2H), 3.07 (t, J=6.5 Hz, 2H), 2.29-2.15 (m, 2H); MS: MS m/z 220.0 (M++1).

reactant | triphenylphosphine | 3.94 mmol, 1.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-chloro-3-(3-hydroxypropyl)isoquinolin-4-ol | 2.18 mmol, 520 mg | ClC1=NC(=C(C2=CC=CC=C12)O)CCCO | C12H12ClNO2
reactant | diisopropyl azodicarboxylate | 4.38 mmol, 0.85 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-chloro-3,4-dihydro-2H-pyrano[3,2-c]isoquinoline | 350 mg, 73% | ClC1=NC2=C(C=3C=CC=CC13)OCCC2 | C12H10ClNO
